US07115597B2
2-(6-Methoxy-pyrimidin-4-ylamino)-thiazole-5-carbonitrile (22-11)
A flame dried flask under argon gas was charged with sodium hydride (39 mg, 60% dispersion, 0.97 mmol) and 2 mL anhydrous THF. 6-Methoxy-pyrimidin-4-ylamine (55 mg, 0.44 mmol) was added slowly followed, after 10 minutes, by the addition of 2-chloro-thiazole-5-carbonitrile (76 mg, 0.53 mmol). After 1 hour, the reaction was diluted with water and adjusted to pH 7 with 1M HCl (aq). The resulting precipitate was filtered, washed with water and air dried. The resulting solid triturated with ether, sonucated, filtered and washed with ether. 1H-NMR (400 MHz, DMSO-d6) 12.40 (s, 1H), 8.68 (1H, s), 8.31 (1H, s), 6.42 (1H, s), 3.92 (s, 3H). M+1=234.2. mp 246–248.

reactant | sodium hydride | 0.97 mmol, 39 mg | [H-].[Na+]
reactant | 6-Methoxy-pyrimidin-4-ylamine | 0.44 mmol, 55 mg | COC1=CC(=NC=N1)N | C5H7N3O
reactant | 2-chloro-thiazole-5-carbonitrile | 0.53 mmol, 76 mg | ClC=1SC(=CN1)C#N | C4HClN2S
reactant | HCl | 1M | Cl | ClH
solvent | water | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-(6-Methoxy-pyrimidin-4-ylamino)-thiazole-5-carbonitrile | COC1=CC(=NC=N1)NC=1SC(=CN1)C#N | C9H7N5OS
